US08629271B2
a) 2,2,2-Trifluoro-1-(9-((4-(2-hydroxyethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)ethanone
TBAF (1M in THF, 2.96 mL) was added to a stirred solution of 1-(9-((4-(2-(tert-butyldimethylsilyloxy)ethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)-2,2,2-trifluoroethanone (Example 43, step a) (1.500 g, 2.96 mmol) in THF (5 mL). After 1 h, the solution was evaporated to gum. Purification by silica gel chromatography eluting with ethyl acetate:triethylamine, 10:1 gave the subtitled compound as a gum. Yield 0.25 g.

reactant | TBAF | 1M, 2.96 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 1-(9-((4-(2-(tert-butyldimethylsilyloxy)ethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)-2,2,2-trifluoroethanone | [Si](C)(C)(C(C)(C)C)OCCC=1C=C(SC1)CN1CCC2(CN(CCO2)C(C(F)(F)F)=O)CC1 | C23H37F3N2O3SSi
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2,2,2-Trifluoro-1-(9-((4-(2-hydroxyethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)ethanone | FC(C(=O)N1CCOC2(C1)CCN(CC2)CC=2SC=C(C2)CCO)(F)F | C17H23F3N2O3S
